US04649146
A solution of 5-(2-bromoacetyl)-2-(N-methylformamido)-4-methylthiazole (2.77 g) and N-amidinothiourea (2.37 g) in methanol (30 ml) was stirred for 4 hours at ambient temperature and for 60 minutes under refluxing. The reaction mixture was cooled to 5° C. The resulting precipitate was collected by filtration, washed with cold methanol (5 ml×2) and dried under reduced pressure to give 5-(2-guanidinothiazol-4-yl)-2-(N-methylformamido)-4-methylthiazole (2.76 g).

reactant | 5-(2-bromoacetyl)-2-(N-methylformamido)-4-methylthiazole | 2.77 g | BrCC(=O)C1=C(N=C(S1)N(C=O)C)C | C8H9BrN2O2S
reactant | N-amidinothiourea | 2.37 g | C(N)(=N)NC(=S)N | C2H6N4S
solvent | methanol | 30 ml | CO | CH4O
product | 5-(2-guanidinothiazol-4-yl)-2-(N-methylformamido)-4-methylthiazole | 2.76 g | N(C(=N)N)C=1SC=C(N1)C1=C(N=C(S1)N(C=O)C)C | C10H12N6OS2
